US07087579B2
To a suspension of lithium aluminum hydride (0.16 g) in tetrahydrofuran (30 mL) was added methyl 4-(cyclopropylidenemethyl)benzoate (0.80 g), and the mixture was stirred at room temperature for 5 hours. Water (0.4 mL) was added to the reaction mixture, and the mixture was stirred for 3 days. Insoluble materials were removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give 4-(cyclopropylidenemethyl)benzyl alcohol (0.69 g).

reactant | lithium aluminum hydride | 0.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-(cyclopropylidenemethyl)benzoate | 0.80 g | C1(CC1)=CC1=CC=C(C(=O)OC)C=C1 | C12H12O2
reactant | Water | 0.4 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(cyclopropylidenemethyl)benzyl alcohol | 0.69 g | C1(CC1)=CC1=CC=C(CO)C=C1 | C11H12O
